US06498172B1
{3-[(4-Pyridin-4-yl-benzylamino)-methyl]-phenoxy}-acetic tert-butyl ester.
The compound of Step A was prepared from (3-aminomethyl-phenoxy)-acetic acid tert-butyl ester, of Preparation 20, and 4-pyridin-4-yl-benzaldehyde, of Preparation 24, using the method described in Example 3, Step A, except no triethylamine was used. 1H NMR (400 MHz, CDCl3) δ 8.63 (dd, 2H), 7.60 (dd, 2H), 7.47 (m, 4H), 7.24 (m, 1H), 6.96 (m, 2H), 6.78 (dd, 1H), 4.52 (s, 2H), 3.85 (s, 2H), 3.80 (s, 2H), 1.47 (s, 9H); MS 405 (M+1).

reactant | (3-aminomethyl-phenoxy)-acetic acid tert-butyl ester | C(C)(C)(C)OC(COC1=CC(=CC=C1)CN)=O | C13H19NO3
reactant | 4-pyridin-4-yl-benzaldehyde | N1=CC=C(C=C1)C1=CC=C(C=O)C=C1 | C12H9NO
solvent | triethylamine | C(C)N(CC)CC | C6H15N
product | {3-[(4-Pyridin-4-yl-benzylamino)-methyl]-phenoxy}-acetic tert-butyl ester | C(C)(C)(C)OC(COC1=CC(=CC=C1)CNCC1=CC=C(C=C1)C1=CC=NC=C1)=O | C25H28N2O3
